US08735384B2
To a mixture of 4-chloro-2-(methylthio)pyrimidine (0.36 mL, 3.11 mmol), 2-bromo-3-methylbenzaldehyde (0.744 g, 3.74 mmol), and 1,3-dimethyl-1H-imidazol-3-ium iodide (0.697 g, 3.11 mmol) in THF (3 mL) was added NaH (0.149 g, 3.74 mmol) and the resulting mixture was refluxed for 30 min. Product was observed and the reaction went to completion. The mixture was brought to RT and poured into ice-water, extracted with DCM and purified using hexanes to afford a light yellow solid as (2-bromo-3-methylphenyl)(2-(methylthio)pyrimidin-4-yl)methanone.

reactant | 4-chloro-2-(methylthio)pyrimidine | 3.11 mmol, 0.36 mL | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | 2-bromo-3-methylbenzaldehyde | 3.74 mmol, 0.744 g | BrC1=C(C=O)C=CC=C1C | C8H7BrO
reactant | 1,3-dimethyl-1H-imidazol-3-ium iodide | 3.11 mmol, 0.697 g | [I-].CN1C=[N+](C=C1)C
reactant | NaH | 3.74 mmol, 0.149 g | [H-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2-bromo-3-methylphenyl)(2-(methylthio)pyrimidin-4-yl)methanone | BrC1=C(C=CC=C1C)C(=O)C1=NC(=NC=C1)SC | C13H11BrN2OS
